US07410966B2
6-Bromo-2-(7-methyl-1H-indol-3-yl)-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 5-bromo-2,3-diaminopyridine and 7-methylindole-3-carboxaldehyde.

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 7-methylindole-3-carboxaldehyde | CC=1C=CC=C2C(=CNC12)C=O | C10H9NO
product | 6-Bromo-2-(7-methyl-1H-indol-3-yl)-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CNC1=C(C=CC=C21)C | C15H11BrN4
